US05703187
Ethyl 2-(tetramethylcyclopentadienyl)acetate
A solution of 3.822 g (22.89 mmol)ethyl bromoacetate in 25 mL THF was cooled to -78° C. and 3.000 g (20.80 g) sodium tetramethylcyclopentadienide in 50 mL THF was slowly added to it. The resulting slurry was allowed to warm to room temperature and was stirred overnight. The solvent was removed, the residue was extracted with pentane and filtered. The pentane was removed to give a mixture of isomers. Yield was 3.733 g (86.3%). Mass spectra m/e 208 (41 percent).

reactant | ethyl bromoacetate | 22.89 mmol, 3.822 g | BrCC(=O)OCC | C4H7BrO2
reactant | sodium tetramethylcyclopentadienide | 3.000 g | CC1=C(C(=C([CH-]1)C)C)C.[Na+]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | Ethyl 2-(tetramethylcyclopentadienyl)acetate | CC1=C(C(=C(C1CC(=O)OCC)C)C)C | C13H20O2
